Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Diarrhea
Hematemesis
Presyncope
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
============================
HISTORY OF PRESENT ILLNESS:
============================
Mr. ___ is a ___ ___ ___ in ___ with hypertension who
presents with hematemesis, diarrhea, and presyncopal symptoms. 
He
was in his usual state of health until this morning, when he 
felt
a sudden urge to go to the bathroom. He was at a clinic
appointment where his mother when he developed "explosive" brown
watery diarrhea x4 episodes, no melena, no hematochezia. He
vomited several times as well and felt light he was going to 
pass
out. He lowered himself to the floor, denies loss of
consciousness or head strike. He was brought to a bed where his
blood pressure was measured SBP ___ and he threw up again, this
time approximately 1 teaspoon of blood was seen in the basin. He
denies fever, chills, abdominal pain, cough, sob and denies new
foods or sick contacts.

In the ___: Patient was hypotensive to 86/50, fluid responsive to
2L IVF. Rectal showed scant guaiac positive brown stool. 

Initial vital signs were notable for:
Pain ___, Temp 97, HR 57, BP 86/50, RR 20, O2 94% RA

Exam notable for:
benign. rectal with scant guaiac pos brown stool.

Labs were notable for:
WBC 14.2, Hb 13.7, Plt 155

Studies performed include:
EKG SR 51. IVCD QRS 108. PR QTC normal. V4-V6 lateral TWI.
nonspecific TWF in AVL.

Patient was given:
___ 12:16 IV Pantoprazole 40 mg 
___ 12:17 IVF  NS 1000 mL 
___ 13:39 IVF  NS 1000 mL 

Consults: None

Vitals on transfer:
Pain ___, Temp 98.5, HR 69, BP 120/75, RR 19, O2 96% RA

Upon arrival to the floor, the patient reports feeling well. He
denies lightheadedness, dizziness, any further vomiting or
diarrhea since arrival to the ___ ___. Denies chest pain,
abdominal pain, shortness of breath, dysuria, edema.

==================
REVIEW OF SYSTEMS:
==================
Complete ROS obtained and is otherwise negative.

 
Past Medical History:
=====================
PAST MEDICAL HISTORY:
=====================
Hypertension
Diastasis recti
Umbilicla hernia
Avulsion fracture of the foot

 
Social History:
___
Family History:
===============
FAMILY HISTORY:
===============
Mother, ___, alive: CHF, a fib, skin cancer
Father, ___ died of sudden cardiac event, had prostate cancer
and melanoma
History of many types of cancer in the family
 
Physical Exam:
========================
ADMISSION PHYSICAL EXAM:
========================
VITALS: Temp 98.2, BP 125/79, HR 61, RR 16, O2 94% RA
GENERAL: Alert and interactive. Sitting up in bed comfortably. 
In
no acute distress.
HEENT: NCAT. PERRL, EOMI. Sclera anicteric and without 
injection.
MMM.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No organomegaly.
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+
bilaterally.
SKIN: Warm. Cap refill <2s. No rash.
NEUROLOGIC: Moving all extremities spontaneously. Face 
symmetric.

========================
DISCHARGE PHYSICAL EXAM:  
========================
Vitals:  Tmax 98.2 Tc 98.1 HR 65 BP 110/65 RR 16 SpO2 93% on 
room
air.
GENERAL: Alert and interactive. Sitting up in bed comfortably. 
In
no acute distress.
HEENT: Pupils equal and round, EOMI. Sclera anicteric and 
without
injection. MMM.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops appreciated
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
ABDOMEN: Nondistended, non-tender to deep palpation in all four
quadrants. Reducible umbilical hernia present with diastasis
recti (known to patient)
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+
bilaterally.
SKIN: Warm. No rash.
NEUROLOGIC: Moving all extremities spontaneously. Face 
symmetric.
Speech fluent. Alert and oriented x3.

 
Pertinent Results:
___ 11:38AM BLOOD WBC-17.0* RBC-4.73 Hgb-15.2 Hct-44.9 
MCV-95 MCH-32.1* MCHC-33.9 RDW-12.1 RDWSD-42.2 Plt ___
___ 06:01AM BLOOD WBC-6.7 RBC-4.06* Hgb-13.1* Hct-38.7* 
MCV-95 MCH-32.3* MCHC-33.9 RDW-12.1 RDWSD-42.2 Plt ___
___ 11:38AM BLOOD Glucose-118* UreaN-19 Creat-1.3* Na-143 
K-4.6 Cl-104 HCO3-23 AnGap-16
___ 06:01AM BLOOD Glucose-87 UreaN-16 Creat-1.0 Na-145 
K-4.5 Cl-109* HCO3-24 AnGap-12
___ 06:01AM BLOOD Albumin-3.6 Calcium-8.9 Phos-3.1 Mg-1.9 
Iron-175*
___ 11:43AM BLOOD Lactate-2.5*
___ 07:07PM BLOOD Lactate-2.4*
 
Brief Hospital Course:
SUMMARY: Mr. ___ is a ___ ___ in ___ with hypertension 
who presents with hematemesis, diarrhea, and presyncopal 
symptoms, found to be hypotensive to 86/50, resolved with 2L 
IVF's without further issues.

ACUTE ISSUES
============
#PRESYNCOPE
Presented with lightheadedness, blurry vision, and weakness 
shortly after acute onset diarrhea x3-4, without loss of 
consciousness. He was found to be hypotensive to 86/50 in the 
___. EKG in the ___ showed normal sinus rhythm with a ventricular 
rate of 61 and PR interval of 169, little concern for a 
cardiogenic cause. He received 2L IV fluids with improvement in 
hypotension. Large bore IV access was obtained but no 
transfusions were required. He was admitted to the general 
medicine floor and observed overnight with no further issues and 
no symptoms. His presyncope likely was a vagal response in the 
setting of his diarrheal bowel movements. His relatively slow 
heart rate also suggested he likely had a good amount of vagal 
tone at baseline. Hypovolemia due to diarrhea was possible, 
although the volume of his diarrhea likely was not enough to 
cause syncope. Orthostatic vital signs were obtained prior to 
discharge and were normal. 
[] Encourage PO fluids as outpatient
[] Hold losartan until BP is checked at next PCP ___. 
Patient is a nurse and may check himself as well.

# DIARRHEA
# LEUKOCYTOSIS
Initially presented with watery brown "explosive" bowel 
movements x4, followed by presyncope as above. Initially 
hypotensive to 86/50 with a lactate 2.5, leukocytosis of 11.1 
with neutrophil predominance, concerning for infectious 
diarrhea. UA and CXR were not concerning for infection. Urine 
and blood cultures were sent, still pending at the time of 
discharge. He was admitted to the general medicine floor, and 
the day after admission, his white count downtrended from 11.1 
to 6.7 without any antibiotics. He did not have any further 
diarrhea, nausea, or vomiting. This was possibly viral 
gastroenteritis although he did not have a clear culprit (no 
food left out, no new foods, no sick contacts, no travel). No 
recent travel or camping. 
- f/u urine and blood cultures pending
- Stool cx ordered but never sent because patient did not have 
subsequent BM
- Stool C. diff ordered given that patient is a nurse and high 
risk for C. diff colonization, but test was never sent because 
the patient did not have any further diarrhea. Passing gas 
without concern for c. diff toxic megacolon.

# HEMATEMESIS
In the ___, had multiple episodes of vomiting with ~1 teaspoon of
blood noted. Initial concern for was for acute UGI bleed given 
presyncopal symptoms and hypotension and IV access was 
established but no transfusions were required. Hb 15.2 on 
arrival, and received 2L IVF in ___ as above. Takes daily aspirin 
at home but otherwise denies NSAIDs, other blood thinners, 
corticosteroids. INR was 1.2. Denied chest pain, heartburn, 
dysphagia, melena, hematochezia. Has never been diagnosed with 
an ulcer, denies alcohol and illicit drug use and denies prior 
episodes of GI bleed, and LFT's were within normal limits, all 
making a significant acute GI bleed unlikely. Most likely 
irritation from recurrent vomiting ___. No further 
vomiting or nausea since admission.
[] Ranitidine 150 po bid until next PCP ___

# ___
Admission Cr 1.3, unknown baseline. Likely prerenal in the 
setting of extensive diarrhea and vomiting. Hypotensive in ___ to 
86/50 but fluid responsive, received 2L IVF with downtrend in Cr 
to 1.0 on the morning after admission. Tolerating PO fluids well 
on discharge.
[] continue to encourage PO hydration as outpatient

# Anemia
Likely dilutional, admission Hgb 15.2, received 2L IVFs and Hgb 
was 13.1 on the morning after admission. Normal iron studies: 
iron 175, Ferritin 184, TIBC 285, Transferrin 219, transferrin 
sat 80%. Does not appear to be iron deficiency anemia but stool 
guaiac was positive in the ___.
[] Given positive stool guaiac in ___, consider repeat guaiac 
outpatient with repeat iron studies
[] Already had colonscopy within the last ___ years. If still no 
concern for iron deficiency anemia after repeat iron 
studies/guaiac, continue with age-appropriate screening.

CHRONIC ISSUES
===============
# HYPERTENSION
Home losartan was held in the setting of initial hypotension, 
with BP's 120s-140s the day after admission.
[] resume losartan as outpatient once vitals are rechecked (can 
check at next PCP appointment or patient can check himself as he 
is a nurse)

# HEALTH MAINTENANCE
[] Continue home baby aspirin

TRANSITIONAL ISSUES
===================
Follow ups:
[] Please call your PCP's office to schedule a follow up 
appointment within 2 weeks

Labs/Studies:
[] Please follow up urine and blood cultures still pending at 
the time of discharge
[] Please follow up positive stool guaiac with repeat guaiac at 
next PCP appointment, consider repeat colonoscopy

Medications:
[] Please hold the losartan until vitals are re-checked either 
by PCP or patient and BP is not hypotensive
[] Please take the ranitidine given hematemesis until next PCP 
appointment

___:
[] Colonoscopy as dictated by age appropriate screening
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Losartan Potassium 50 mg PO DAILY 
2. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Ranitidine 150 mg PO BID 
RX *ranitidine HCl 150 mg 1 capsule(s) by mouth twice a day Disp 
#*28 Capsule Refills:*0 
2.  Aspirin 81 mg PO DAILY  
3. HELD- Losartan Potassium 50 mg PO DAILY  This medication was 
held. Do not restart Losartan Potassium until your blood 
pressure is rechecked and your SBP is >120

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnoses
=================
Presyncope, likely vasovagal v. hypovolemic
Diarrhea, likely viral gastroenteritis

 
Discharge Condition:
AfVSS
Ambulatory without assistance
AOx3

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking ___ of you while you were in the 
hospital.

Why was I admitted to the hospital?
-You were admitted after you had diarrhea and vomiting with 
blood and experienced presyncope, and were found to be 
hypotensive to 86/50.

What happened while I was in the hospital?
-You were given bolus IV fluids and several lab tests were sent 
to evaluate the cause of your presyncope. Your EKG was normal. 
Your stool was positive for blood. You did not require any blood 
transfusions, and your blood pressure responded well to fluids. 
You subsequently were asymptomatic with normal vital signs 
(normal orthostatics), with stable laboratory studies, and 
discharged with no issues.

What should I do after discharged from the hospital?
-Please follow up with your PCP ___ 2 weeks.
-Please take all medications as prescribed.
-If you are having diarrhea or no bowel movements/unable to pass 
gas, please call your doctor

___,

Your ___ ___ Team

 
Followup Instructions:
___